//*******************************************************************************
// Short-Channel CMOS Process in Cadence Spectre Syntax
//
// Extracted from:
// R. Jacob Baker; CMOS Circuit Design, Layout and Simulation; Third Edition
// IEEE Press Series on Microelectronic Systems; ISBN 978-0-470-88132-3
//******************************************************************************

model nmos bsim4 type=n version = 4.5          
+binunit = 1         paramchk = 1       mobmod = 0         
+capmod = 2          igcmod = 1         igbmod = 1        geomod = 1
+diomod = 1          rdsmod = 0         rbodymod = 1      rgatemod = 1
+permod = 1          acnqsmod = 0       trnqsmod = 0

+tnom = 27           toxe = 1.4e-9      toxp = 7e-10      toxm = 1.4e-9
+epsrox = 3.9        wint = 5e-9        lint = 1.2e-8
+ll = 0              wl = 0             lln = 1           wln = 1
+lw = 0              ww = 0             lwn = 1           wwn = 0
+lwl = 0             wwl = 0            xpart = 0         toxref = 1.4e-9

+vth0 = 0.22         k1 = 0.35          k2 = 0.05         k3 = 0
+k3b = 0             w0 = 2.5e-6        dvt0 = 2.8        dvt1 = 0.52
+dvt2 = -0.032       dvt0w = 0          dvt1w = 0         dvt2w = 0
+dsub = 2            minv = 0.05        voffl = 0         dvtp0 = 1e-7
+dvtp1 = 0.05        lpe0 = 5.75e-8     lpeb = 2.3e-10    xj = 2e-8
+ngate = 5e20        ndep = 2.8e18      nsd = 1e020       phin = 0
+cdsc = 0.0002       cdscb = 0          cdscd = 0         cit = 0
+voff = -0.15        nfactor = 1.2      eta0 = 0.15       etab = 0
+vfb = -0.55         u0 = 0.032         ua = 1.6e-10      ub = 1.1e-17
+uc = -3e-11         vsat = 1.1e5       a0 = 2            ags = 1e-20
+a1 = 0              a2 = 1             b0 = -1e-20       b1 = 0
+keta = 0.04         dwg = 0            dwb = 0           pclm = 0.18
+pdiblc1 = 0.028     pdiblc2 = 0.022    pdiblcb = -0.005  drout = 0.45
+pvag = 1e-20        delta = 0.01       pscbe1 = 8.14e8   pscbe2 = 1e-7
+fprout = 0.2        pdits = 0.2        pditsd = 0.23     pditsl = 2.3e6
+rsh = 3             rdsw = 150         rsw = 150         rdw = 150
+rdswmin = 0         rdwmin = 0         rswmin = 0        prwg = 0
+prwb = 6.8e-11      wr = 1             alpha0 = 0.074    alpha1 = 0.005
+beta0 = 30          agidl = 0.0002     bgidl = 2.1e9     cgidl = 0.0002
+egidl = 0.8

+aigbacc = 0.012     bigbacc = 0.0028   cigbacc = 0.002   cigbinv = 0.004
+nigbacc = 1         aigbinv = 0.014    bigbinv = 0.004   bigc = 0.0028 
+eigbinv = 1.1       nigbinv = 3        aigc = 0.017      cigsd = 0.002 
+cigc = 0.002        aigsd = 0.017      bigsd = 0.0028    ntox = 1
+nigc = 1            poxedge = 1        pigcd = 1 

+xrcrg1 = 12        xrcrg2 = 5 
+cgso = 6.238e-10   cgdo = 6.238e-10    cgbo = 2.56e-11   cgdl = 2.495e-10
+cgsl = 2.495e-10   ckappas = 0.02      ckappad = 0.02    acde = 1
+moin = 15          noff = 0.9          voffcv = 0.02
   
+kt1 = -0.21        kt1l = 0.0          kt2 = -0.042      ute = -1.5  
+ua1 = 1e-9         ub1 = -3.5e-19      uc1 = 0           prt = 0
+at = 53000

+jss = 0.0001      jsws = 1e-11         jswgs = 1e-10    njs = 1  
+ijthsfwd = 0.01   ijthsrev = 0.001     bvs = 10         xjbvs = 1
+jsd = 0.0001      jswd = 1e-11         jswgd =  1e-10   njd = 1
+ijthdfwd = 0.01   ijthdrev = 0.001     bvd = 10         xjbvd = 1
+pbs = 1           cjs = 0.0005         mjs = 0.5        pbsws = 1
+cjsws = 5e-10     mjsws = 0.33         pbswgs = 1       cjswgs = 3e-010
+mjswgs = 0.33     pbd  = 1             cjd = 0.0005     mjd = 0.5
+pbswd = 1         cjswd = 5e-10        mjswd = 0.33     pbswgd = 1
+cjswgd = 5e-10    mjswgd = 0.33        tpb = 0.005      tcj = 0.001 
+tpbsw = 0.005     tcjsw = 0.001        tpbswg = 0.005   cjswg = 0.001
+xtis = 3          xtid = 3

+dmcg = 0e-6       dmci = 0e-6          dmdg = 0e-6      dmcgt = 0e-7 
+dwj = 0e-8        xgw = 0e-7           xgl = 0e-8 
+rshg = 0.4        gbmin = 1e-10        rbpb = 5         rbpd = 15 
+rbps = 15         rbdb = 15            rbsb = 15        ngcon = 1  

model pmos bsim4 type=p version = 4.5  
+binunit = 1       paramchk = 1         mobmod = 0
+capmod = 2        igcmod = 1           igbmod = 1       geomod = 1
+diomod = 1        rdsmod = 0           rbodymod = 1     rgatemod = 1
+permod = 1        acnqsmod = 0         trnqsmod = 0
 
+tnom = 27         toxe = 1.4e-9        toxp =7e-01      toxm = 1.4e-9
+epsrox = 3.9      wint = 5e-9          lint = 1.2e-8
+ll = 0            wl = 0               lln = 1          wln = 1
+lw = 0            ww = 0               lwn = 1          wwn = 1
+lwl = 0           wwl = 0              xpart = 0        toxref = 1.4e-9

+vth0 = -0.22      k1 = 0.39            k2 = 0.05        k3 = 0
+k3b = 0           w0 = 2.5e-6          dvt0 = 3.9       dvt1 = 0.635
+dvt2 = -0.032     dvt0w = 0            dvt1w = 0        dvt2w = 0
+dsub = 0.7        minv = 0.05          voffl = 0        dvtp0 =0.5e-8
+dvtp1 = 0.05      lpe0 = 5.75e-8       lpeb = 2.3e-10   xj = 2e-8
+ngate = 5e20      ndep = 2.8e18        nsd = 1e20       phin = 0
+cdsc = 0.000258   cdscb = 0            cdscd = 6.1e-8   cit = 0
+voff = -0.15      nfactor = 2          eta0 =0.15       etab = 0
+vfb = 0.55        u0 = 0.0095          ua = 1.6e-9      ub = 8e-18
+uc = 4.6e-13      vsat = 90000         a0 = 1.2         ags = 1e-20
+a1 = 0            a2 = 1               b0 = -1e-20      b1 = 0
+keta = -0.047     dwg = 0              dwb = 0          pclm = 0.55
+pdiblc1 = 0.03    pdiblc2 = 0.0055     pdiblcb = 3.4e-8 drout = 0.56
+pvag = 1e-20      delta = 0.014        pscbe1 = 8.14e8  pscbe2 = 9.58e-7
+fprout = 0.2      pdits = 0.2          pditsd = 0.23    pditsl = 2.3e6
+rsh = 3           rdsw = 250           rsw = 160        rdw = 160
+rdswmin = 0       rdwmin = 0           rswmin = 0       prwg = 3.22e-8
+prwb = 6.8e-11    wr = 1               alpha0 = 0.074   alpha1 = 0.005
+beta0 = 30        agidl = 0.0002       bgidl = 2.1e9    cgidl = 0.0002
+egidl = 0.8

+aigbacc = 0.012   bigbacc = 0.0028     cigbacc = 0.002
+nigbacc = 1       aigbinv = 0.014      bigbinv = 0.004  cigbinv = 0.004
+eigbinv = 1.1     nigbinv = 3          aigc = 0.69      bigc = 0.0012
+cigc = 0.0008     aigsd = 0.0087       bigsd = 0.0012   cigsd = 0.0008
+nigc = 1          poxedge = 1          pigcd = 1        ntox = 1

+xrcrg1 = 12       xrcrg2 = 6
+cgso = 7.43e-10   cgdo =7.43e-10       cgbo = 2.56e-11  cgdl = 1e-14
+cgsl = 1e-14      ckappas = 0.5        ckappad = 0.5    acde = 1
+moin = 15         noff = 0.9           voffcv =0.02  

+kt1 = -0.19       kt1l = 0             kt2 = -0.052     ute = -1.5
+ua1 = -1e-9       ub1 = 2e-18          uc1 = 0          prt = 0
+at = 33000

+fnoimod = 1       tnoimod = 0
+jss = 0.0001      jsws = 1e-011        jswgs = 1e-10    njs = 1 


+ijthsfwd = 0.01   ijthsrev = 0.001     bvs = 10         xjbvs = 1
+jsd = 0.0001      jswd = 1e-11         jswgd =1e-10     njd = 1 
+ijthdfwd = 0.01   ijthdrev = 0.001     bvd = 10         xjbvd = 1  
+pbs = 1           cjs = 0.0005         mjs = 0.5        pbsws = 1
+cjsws = 5e-10     mjsws = 0.33         pbswgs = 1       cjswgs = 3e-10
+mjswgs = 0.33     pbd = 1              cjd = 0.0005     mjd = 0.5
+pbswd = 1         cjswd =5e-10         mjswd = 0.33     pbswgd = 1 
+cjswgd = 5e-10    mjswgd = 0.33        tpb = 0.005      tcj = 0.001
+tpbsw =0.005      tcjsw = 0.001        tpbswg =0.005    tcjswg = 0.001
+xtis = 3 

+dmcg = 5e-6       dmci = 5e-6          dmdg = 5e-6      dmcgt = 6e-7
+dwj = 4.5e-8      xgw = 3e-7           xgl = 4e-8

+rshg = 0.4        gbmin = 1e-10        rbpb = 5        rbpd = 15
+rbps = 15         rbdb = 15            rbsb = 15       ngcon = 1
